US07776875B2
Preparation of Racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-cyanomethoxy-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
In a manner similar to the method described in Example 10d, E/Z-6-chloro-3-(5-chloro-2-cyanomethoxy-benzylidene)-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (5 g, 11 mmol) was reacted with 1-(5-fluoro-2-methyl-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene (44 mmol) in toluene to give the title compound as a white solid (100 mg).

reactant | Z-6-chloro-3-(5-chloro-2-cyanomethoxy-benzylidene)-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 11 mmol, 5 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OCC#N)=O | C22H18Cl2N2O4
reactant | 1-(5-fluoro-2-methyl-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | 44 mmol | FC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)C | C13H18FNOSi
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-cyanomethoxy-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 100 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OCC#N)=O)C1=C(C=CC(=C1)F)C)=O | C27H20Cl2FN3O3
